US04992203
(d) 1-(4-Methoxyphenyl)-3-(4-nitrophenylvinyl)-5-(4-nitrophenyl)pyrazoline (4)
A solution of bis (4-nitrobenzal)acetone (1.62 g; 0.005 m) and 4-methoxy-phenyl-hydrazine hydrochloride (0.87 g; 0.005 m) in dimethylformamide (25 ml.) was heated at 100° C. for 4 hours to give a dark red solution, which was drowned into water (100 ml.) The crude solid product was filtered, water washed and was recrystallised from butanol to give a dark red solid (1.0 g; 45% theory)

reactant | bis (4-nitrobenzal)acetone | 1.62 g | [N+](=O)([O-])C1=CC=C(C=CC(=O)C=CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C17H12N2O5
reactant | 4-methoxy-phenyl-hydrazine hydrochloride | 0.87 g | Cl.COC1=CC=C(C=C1)NN
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-(4-Methoxyphenyl)-3-(4-nitrophenylvinyl)-5-(4-nitrophenyl)pyrazoline | COC1=CC=C(C=C1)N1NC(=CC1C1=CC=C(C=C1)[N+](=O)[O-])C=CC1=CC=C(C=C1)[N+](=O)[O-] | C24H20N4O5
